US04349552
The reaction of 3-(N,N-diallylcarbamoyl)propionic acid and diphenylphosphoryl azide in a solution of triethyl amine and benzene provided a solution comprising 2-(N',N'-diallylcarbamoyl)ethyl isocyanate (I.R.: 2275 cm-1), which was reacted with 5-fluorouracil to provide 1-[N-[2-(N',N'-diallylcarbamoyl)ethyl]carbamoyl]-5-fluorouracil substantially in the similar method to that of Example 4.

reactant | 3-(N,N-diallylcarbamoyl)propionic acid | C(C=C)N(C(=O)CCC(=O)O)CC=C | C10H15NO3
reactant | diphenylphosphoryl azide | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | triethyl amine | C(C)N(CC)CC | C6H15N
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 2-(N',N'-diallylcarbamoyl)ethyl isocyanate | C(C=C)N(C(=O)CCN=C=O)CC=C | C10H14N2O2
